US07795315B2
(E)-{4-[2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-methanesulfonyloxy-acetic acid methyl ester
To a solution of {4-[2-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-hydroxy-acetic acid methyl ester (9.00 g, 21.1 mmol) and triethylamine (3.20 g, 31.6 mmol) in CH2Cl2 (135 mL) cooled to −5 degrees Celcius was added dropwise methanesulfonyl chloride (3.14 g, 27.4 mmol) under N2 atmosphere. The reaction was stirred at 0 degrees Celcius until the starting material had been consumed according to TLC (about 1 hour). The mixture was washed with water (90 mL) and brine (90 mL), dried with MgSO4, filtered, and evaporated in vacuo to obtain 11.2 g (quantitative yield) of light yellow crystal which was used without further purification. MS: calc'd 505 (MH+), exp 505 (MH+).

reactant | {4-[2-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-hydroxy-acetic acid methyl ester | 21.1 mmol, 9.00 g | COC(C(O)C1=CC=C(C=C1)C=CC(NC1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C23H26N2O6
reactant | triethylamine | 31.6 mmol, 3.20 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 27.4 mmol, 3.14 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 135 mL | C(Cl)Cl | CH2Cl2
product | (E)-{4-[2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-methanesulfonyloxy-acetic acid methyl ester | 11.2 g, quantitative yield | COC(C(OS(=O)(=O)C)C1=CC=C(C=C1)\C=C\C(NC1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C24H28N2O8S
